US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(methylamino)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-(methylamino)thiazole-4-carboxylic acid (0.34 g, 2.149 mmol) and (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.467 g, 1.791 mmol). The product was purified by Flash-chromatography. Yield 9.08%. 1H-NMR (400 MHz; DMSO-d6): δ 1.12 (d, 3H), 2.85 (d, 3H), 4.30-4.42 (m, 3H), 6.96 (d, 1H), 7.18 (d, 1H), 7.59 (d, 1H), 7.84 (d, 1H), 7.91 (d, 1H), 7.95-7.96 (m, 2H), 8.08 (dd, 1H).

reactant | 2-(methylamino)thiazole-4-carboxylic acid | 2.149 mmol, 0.34 g | CNC=1SC=C(N1)C(=O)O | C5H6N2O2S
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.791 mmol, 0.467 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(methylamino)thiazole-4-carboxamide | Yield 9.08% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)NC | C18H17ClN6OS
